US07825253B2
rac-N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-(1-pyridin-3-yl-ethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=411.5 (M+H+), was prepared in accordance with the general method of example 1 from 5-iodo-2-chloroquinoline, 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4) and rac-1-pyridine-3-yl-ethylamine.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | rac-1-pyridine-3-yl-ethylamine | N1=CC(=CC=C1)C(C)N | C7H10N2
product | rac-N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-(1-pyridin-3-yl-ethyl)-quinoline-2,5-diamine | CC1(OC2=C(C1)C=CC=C2NC2=NC=1C=CC=C(C1C=C2)NC(C)C=2C=NC=CC2)C | C26H26N4O
